US05981775
Another known approach used for the synthesis of formononetin is the general method involving the addition of one carbon to 2-hydroxydeoxybenzoins and their cyclization to form isoflavones. The method introduced by Andrew Pelter (Pelter, Andrew, et al., Synthesis, 5:326 (1976)) involves the reaction of 2-hydroxydeoxybenzoins with N,N-dimethylformamide dimethylacetal (dimethoxydimethyl aminomethane) (two equivalents) in dry benzene. Refluxing a mixture of 2,4-dihydroxy-4'-methoxydeoxybenzoin with N,N-dimethylformamide dimethyl acetal in dry benzene for 4 hours gave formononetin in 85% yield. However, the use of the expensive reagent, N,N-dimethylformamide dimethyl acetal and dry benzene as solvent makes this an unattractive method for the commercial production of formononetin.

reactant | N,N-dimethylformamide dimethylacetal | two equivalents | COC(N(C)C)OC | C5H13NO2
reactant | 2,4-dihydroxy-4'-methoxydeoxybenzoin | OC1=C(C=CC(=C1)O)C(=O)CC1=CC=C(C=C1)OC | C15H14O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | formononetin | 85% yield | COC=1C=CC(=CC1)C2=COC=3C=C(C=CC3C2=O)O | C16H12O4
